US08729271B2
Methylmagnesium bromide (1.85 g) was added to a suspension of 2-(4-fluorophenyl)pyridine-4-carbonitrile (1.0 g) in diethyl ether (10 mL), and the mixture was stirred at room temperature overnight. After adding ice and 2M hydrochloric acid and stirring, the resulting mixture was made basic with 2M aqueous sodium hydroxide solution. After exracting with ethyl acetate, the organic phase was separated out and the solvent was distilled off The resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=98:2-80:20) to afford 1-[2-(4-fluorophenyl)pyridin-4-yl]ethanone (350 mg).

reactant | Methylmagnesium bromide | 1.85 g | C[Mg]Br
reactant | 2-(4-fluorophenyl)pyridine-4-carbonitrile | 1.0 g | FC1=CC=C(C=C1)C1=NC=CC(=C1)C#N | C12H7FN2
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-fluorophenyl)pyridin-4-yl]ethanone | 350 mg | FC1=CC=C(C=C1)C1=NC=CC(=C1)C(C)=O | C13H10FNO
